Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
I[CH2:1][CH2:2][CH2:3][Cl:4].[O:5]=[C:6]([NH:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][c:13]([Cl:14])[cH:15]1)[c:16]1[cH:17][nH:18][c:19]2[cH:20][cH:21][cH:22][cH:23][c:24]12>>[CH2:1]([CH2:2][CH2:3][Cl:4])[n:18]1[cH:17][c:16]([C:6](=[O:5])[NH:7][CH2:8][c:9]2[cH:10][cH:11][cH:12][c:13]([Cl:14])[cH:15]2)[c:24]2[c:19]1[cH:20][cH:21][cH:22][cH:23]2,[O:5]=[C:6]([NH:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][c:13]([Cl:14])[cH:15]1)[c:16]1[cH:17][nH:18][c:19]2[cH:20][cH:21][cH:22][cH:23][c:24]12.[I:101][CH2:1][CH2:2][CH2:3][Cl:4]>>[CH2:1]([CH2:2][CH2:3][Cl:4])[n:18]1[cH:17][c:16]([C:6](=[O:5])[NH:7][CH2:8][c:9]2[cH:10][cH:11][cH:12][c:13]([Cl:14])[cH:15]2)[c:24]2[c:19]1[cH:20][cH:21][cH:22][cH:23]2,SN2,"[(18, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[C@@H:3]1[CH2:4][CH2:5][C:6](=[O:7])[N:8]1[CH2:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1.[CH3:16][C:17]([CH3:18])([CH3:19])[O:20][C:21](=[O:22])[C@@H:23]([NH2:24])[CH2:25][c:26]1[cH:27][cH:28][c:29]([OH:30])[cH:31][cH:32]1>>[C:1](=[O:2])([C@@H:3]1[CH2:4][CH2:5][C:6](=[O:7])[N:8]1[CH2:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[NH:24][C@H:23]([C:21]([O:20][C:17]([CH3:16])([CH3:18])[CH3:19])=[O:22])[CH2:25][c:26]1[cH:27][cH:28][c:29]([OH:30])[cH:31][cH:32]1,[CH3:16][C:17]([CH3:18])([CH3:19])[O:20][C:21](=[O:22])[C@@H:23]([NH2:24])[CH2:25][c:26]1[cH:27][cH:28][c:29]([OH:30])[cH:31][cH:32]1.[OH:101][C:1](=[O:2])[C@@H:3]1[CH2:4][CH2:5][C:6](=[O:7])[N:8]1[CH2:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([C@@H:3]1[CH2:4][CH2:5][C:6](=[O:7])[N:8]1[CH2:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[NH:24][C@H:23]([C:21]([O:20][C:17]([CH3:16])([CH3:18])[CH3:19])=[O:22])[CH2:25][c:26]1[cH:27][cH:28][c:29]([OH:30])[cH:31][cH:32]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (24, 1), ([1, 2], 2), (303, 24.1), ([24.1, 24], 24), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:3][c:4]([C:5]([N:6]([CH2:7][CH2:8][CH3:9])[CH2:10][CH2:11][CH3:12])=[O:13])[cH:14][c:15]([C:16](=[O:17])[O:18][CH2:19][CH3:20])[cH:21]1.[C-:22]#[N:23]>>[CH2:1]([c:2]1[cH:3][c:4]([C:5]([N:6]([CH2:7][CH2:8][CH3:9])[CH2:10][CH2:11][CH3:12])=[O:13])[cH:14][c:15]([C:16](=[O:17])[O:18][CH2:19][CH3:20])[cH:21]1)[C:22]#[N:23],[Br:101][CH2:1][c:2]1[cH:3][c:4]([C:5]([N:6]([CH2:7][CH2:8][CH3:9])[CH2:10][CH2:11][CH3:12])=[O:13])[cH:14][c:15]([C:16](=[O:17])[O:18][CH2:19][CH3:20])[cH:21]1.[C-:22]#[N:23]>>[CH2:1]([c:2]1[cH:3][c:4]([C:5]([N:6]([CH2:7][CH2:8][CH3:9])[CH2:10][CH2:11][CH3:12])=[O:13])[cH:14][c:15]([C:16](=[O:17])[O:18][CH2:19][CH3:20])[cH:21]1)[C:22]#[N:23],SN2,"[(22, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][c:2]1[cH:3][c:4]([O:5][CH2:6][CH2:7][CH2:8][OH:9])[cH:10][c:11]([O:12][S:13](=[O:14])(=[O:15])[c:16]2[cH:17][cH:18][cH:19][c:20]3[cH:21][cH:22][cH:23][cH:24][c:25]23)[cH:26]1>>[CH3:1][c:2]1[cH:3][c:4]([O:5][CH2:6][CH2:7][CH:8]=[O:9])[cH:10][c:11]([O:12][S:13](=[O:14])(=[O:15])[c:16]2[cH:17][cH:18][cH:19][c:20]3[cH:21][cH:22][cH:23][cH:24][c:25]23)[cH:26]1,[CH3:1][c:2]1[cH:3][c:4]([O:5][CH2:6][CH2:7][CH2:8][OH:9])[cH:10][c:11]([O:12][S:13](=[O:14])(=[O:15])[c:16]2[cH:17][cH:18][cH:19][c:20]3[cH:21][cH:22][cH:23][cH:24][c:25]23)[cH:26]1.[Cl:301][C:302](=[O:303])[C:304](=[O:305])[Cl:306].[CH3:307][S:308](=[O:309])C.CC[N:310](CC)CC>>[CH3:1][c:2]1[cH:3][c:4]([O:5][CH2:6][CH2:7][CH:8]=[O:9])[cH:10][c:11]([O:12][S:13](=[O:14])(=[O:15])[c:16]2[cH:17][cH:18][cH:19][c:20]3[cH:21][cH:22][cH:23][cH:24][c:25]23)[cH:26]1,Swern_oxidation,"[([308, 309], 304), ([304, 305], 305), (305, [305, 304]), ([304, 306], 306), (306, 308), ([308, 309], [309, 304]), ([304, 302], 302), ([302, 301], 301), (9, 308), ([308, 306], 306), (306, 9.1), ([9.1, 9], 9), (310, 307.1), ([307.1, 307], 307), (301, 310.1), ([310.1, 310], 310), (307, 8.1), ([8.1, 8], [8, 9]), ([9, 308], 308)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
